Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
codeine / oxycodone / tramadol / Lipitor
 
Attending: ___.
 
Chief Complaint:
liver abscess + Klebisella-positive bacteremia 

 
Major Surgical or Invasive Procedure:
___: ___ F R hepatic abscess drain
.
___: Right SL 48cm PICC line has been placed with its tip in 
the
proximal SVC per Dr. ___

 
___ of Present Illness:
___ female w hx of liver cancer sp xrt,  s/p embolization on 
___
to attempt to downstage the tumor for future surgical
planning. Post procedure, patient continued to have pain
extending throughout the abdomen and into her back. She was
admitted for pain control, and underwent CT A/P which showed
post-embolization changes. 
 The patient was discharged from transplant service on ___,
She presented to OSH w fatigue, poor po intake and back pain 
that
never got better since last discharge as she describes. At OSH
she was found to have elevated WBC 16.6, Na 133, lactate 3.6.
Given pt complicated history she was transferred to ___ for
further evaluation and management. At ___  ED,  ___ was 16.5 w
left shift, BP 95/65, HR90, lactate went down to 1.4 without
anion gap.
She does complain of fatigue, she states that she used to walk
with a walker , but she feels that she doest not have the energy
to walk for the past few days, fatigue. She also complain of 
left
lower back pain. She stated that she had one episode of chills
yesterday lasted for 15 min. She denies, chest pain, shortness 
of
breath, fevers, wt loss, change in bowel habits, N/V or 
abdominal
pain.

 
Past Medical History:
- AV nodal re-entry tachycardia 
- NSTEMI (___) s/p ___ 
- ___ 
- HLD 
- HTN
- Hypothyroidism 
- IBS 
- Nephrolithiasis
.
Past Surgical History:
- Lumbar fusion 
-bilateral ureteral stents
- Bilateral cataract extractions
- Bilateral ureteral stent placement (___)
 
Social History:
___
Family History:
Father:  bladder cancer age ___
Paternal side:  cousin with ovarian cancer in her ___
Cancers in the family:  paternal uncle colon cancer ___

 
Physical Exam:
Vitals: T 98.6 BP 115/82 HR 91  RR 18 Sat 95% RA 
GEN: A&Ox3, NAD, lying on her left side
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, normal S1/S2
PULM:CTAB
ABD: Soft, nondistended, appropriately tender near the liver, no 
rebound or guarding, no palpable masses
Ext: No ___ edema, ___ warm and well perfused
Drains: Pigtail into liver abscess left in, 20mL dark blood
 
Pertinent Results:
Admission: ___
WBC-14.3* RBC-3.76* Hgb-10.2* Hct-31.0* MCV-82 MCH-27.1 
MCHC-32.9 RDW-17.0* RDWSD-50.8* Plt ___ PTT-24.8* ___
Glucose-120* UreaN-19 Creat-0.6 Na-137 K-4.5 Cl-101 HCO3-20* 
AnGap-16
ALT-111* AST-112* AlkPhos-194* TotBili-0.5
Lactate-1.4
.
Discharge: ___ 
WBC-10.4* RBC-3.91 Hgb-10.5* Hct-32.1* MCV-82 MCH-26.9 MCHC-32.7 
RDW-17.6* RDWSD-51.0* Plt ___
Glucose-132* UreaN-10 Creat-0.6 Na-136 K-5.1 Cl-99 HCO3-24 
AnGap-13
ALT-61* AST-43* AlkPhos-184* TotBili-0.6
Calcium-8.9 Phos-2.8 Mg-1.9
.
   Blood Culture, Routine (Final ___: 
      KLEBSIELLA PNEUMONIAE.    FINAL SENSITIVITIES. 
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
Ms. ___ is a ___ female with a history of biopsy
proven poorly differentiated cholangiocarcinoma which was 
initially
discovered in ___ on chest CT. She underwent Y90 arterial
mapping on ___ and underwent Y90 treatment on ___. Her
post-procedural course was complicated by prolonged
hospitalization after the procedure and hospital admission 
(___).
Her CTAP demonstrates a 5x3 cm area of mixed
collection and gas in the right lobe of the liver, which is new
in comparison to prior study. Given her symptoms of sepsis, this
collection and gas was determined to be an abscess that was 
drained by ___
on ___ and a ___ pigtail drain was placed, draining ~22 ccs 
of old blood. Cultures of the drain were negative. After the 
procedure, she spiked a fever of 102.9, WBC 14.3 and had rigors; 
workup was notable for a BC that was positive for Klebsiella in 
___ bottles. Treated with vanc/zosyn before knowing 
sensitivities with resolution of her fevers and high WBC. After 
speciation showed sensitivities, she was switched from zosyn 
(___) to Ceftriaxone/Flagyl (___-) as per ID team. Blood cx 
from a short episode of rigors on ___ showed no growth. PICC 
was placed on ___ and pt ready for discharge with a planned 4 
week course of antibiotics and JP drain in place. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
2. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q ___ HOURS 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Levothyroxine Sodium 25 mcg PO DAILY 
5. MetFORMIN (Glucophage) 1000 mg PO BID 
6. Metoprolol Succinate XL 12.5 mg PO QHS 
7. Nitroglycerin SL 0.3 mg SL ASDIR chest pain 
8. Ondansetron ___ mg PO Q8H:PRN nausea 
9. Pantoprazole 40 mg PO Q24H 
10. Simvastatin 10 mg PO QPM 
11. Timolol Maleate 0.25% 1 DROP BOTH EYES BID 
12. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
13. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q 24H Klebsiella + blood cx 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 grams IV daily 
Disp #*14 Dose Pack Refills:*1 
2.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth Three 
times a day Disp #*42 Tablet Refills:*1 
3.  Aspirin 81 mg PO DAILY  
4.  Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID  
5.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q ___ HOURS  
6.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
7.  Levothyroxine Sodium 25 mcg PO DAILY  
8.  MetFORMIN (Glucophage) 1000 mg PO BID  
9.  Metoprolol Succinate XL 12.5 mg PO QHS  
10.  Nitroglycerin SL 0.3 mg SL ASDIR chest pain  
11.  Ondansetron ___ mg PO Q8H:PRN nausea  
12.  Pantoprazole 40 mg PO Q24H  
13.  Timolol Maleate 0.25% 1 DROP BOTH EYES BID  
14.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  
15. HELD- Simvastatin 10 mg PO QPM  This medication was held. Do 
not restart Simvastatin until advised by Dr. ___ it is safe 
to restart

 
Discharge Disposition:
Home With Service
 
Facility:
 ___
 
Discharge Diagnosis:
liver abscess
gram negative bacteremia
s/p Y 90 ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
___ arranged
.
Please call Dr. ___ office at ___ for fever > 101, 
chills, nausea, vomiting, diarrhea, constipation, increased 
abdominal pain, pain not controlled by your pain medication, 
swelling of the abdomen or ankles, worsening yellowing of the 
skin or eyes, itching, inability to tolerate food, fluids or 
medications, or any other concerning symptoms.
.
No lifting more than 10 pounds
.
No driving if taking narcotic pain medication
.
Drain and record the pigtail abscess drain output twice daily 
and as needed so that the drain is never more than ½ full. Call 
the office if the drain output increases by more than 50 cc from 
the previous day, becomes bloody or develops a foul odor.
.
Change the drain dressing once daily or after your shower. Do 
not allow the drain to hang freely at any time. Inspect the site 
for redness, drainage or bleeding. Make sure there is a stitch 
at the drain site and the stat lock in place.
.
Continue IV antibiotics as directed once a day using the PICC 
line. The visiting nurse ___ change the dressing.
PICC line care per protocol
 
Followup Instructions:
___